US08252833B2
Ethyl (4-amino-2-fluorophenyl)acetate
Thionyl chloride (986 mL, 8.51 mol) was added dropwise to a stirred suspension of 2-(4-amino-2-fluorophenyl)acetic acid (960 g, 5.68 mol) in ethanol (10 L) at 0° C. under a nitrogen atmosphere. The reaction mixture was then heated to 40° C. for 48 hours, with the reaction progress monitored by 1H-nmr spectroscopy. The reaction mixture was evaporated to dryness and the residue redissolved in a mixture of dichloromethane (8 L) and saturated sodium hydrogen carbonate solution (5 L). Further sodium hydrogen carbonate solution was added (˜8 L) until the aqueous phase was basic. The layers were separated and the organic phase washed with saturated sodium hydrogen carbonate solution (4 L), dried over magnesium sulphate and the solvent removed under reduced pressure gave the desired product, ethyl (4-amino-2-fluorophenyl)acetate, as an orange oil (1042 g, 93% yield), that may crystallise upon standing.

reactant | Thionyl chloride | 8.51 mol, 986 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(4-amino-2-fluorophenyl)acetic acid | 5.68 mol, 960 g | NC1=CC(=C(C=C1)CC(=O)O)F | C8H8FNO2
reactant | ethanol | 10 L | C(C)O | C2H6O
product | ethyl (4-amino-2-fluorophenyl)acetate | NC1=CC(=C(C=C1)CC(=O)OCC)F | C10H12FNO2
